US05994378
A solution of methyl 5-[3-(benzyloxycarbonyl)propoxy]-1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}indole-3-acetate in a mixed solvent of tetrahydrofuran (2 ml) and methanol (2 ml) was hydrogenated over 10% Pd--C (60 mg) at room temperature under atmosphere pressure. After removal of the catalyst by filtration, the filtrate was concentrated under reduced pressure to give methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(3-carboxypropoxy)indole-3-acetate (0.16 g).

reactant | methyl 5-[3-(benzyloxycarbonyl)propoxy]-1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}indole-3-acetate | C(C1=CC=CC=C1)OC(=O)CCCOC=1C=C2C(=CN(C2=CC1)CC=1C=CC2=C(C=C(O2)C=2SC=C(N2)C(C)(C)C)C1)CC(=O)OC | C38H38N2O6S
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(3-carboxypropoxy)indole-3-acetate | 0.16 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCCCC(=O)O)CC(=O)OC | C31H32N2O6S
